US06177448B1
a) Preparation of 2-allyloxy-4-nitropyridine
To a solution of 2-hydroxy-3-nitropyridine (30.5 mmol) in DMF (20 ml), cesium carbonate (45.7 mmol) and allyl bromide (3.15 mL, 35.6 mmol) were added. The reaction mixture was stirred at room temperature for 18 hours, then it was partitioned between ethyl acetate and water. The combined organic phase was dried and concentrated to give the desired product (5.85 g, 94%). EI-MS m/z 205 (M+).

reactant | 2-hydroxy-3-nitropyridine | 30.5 mmol | OC1=NC=CC=C1[N+](=O)[O-] | C5H4N2O3
reactant | cesium carbonate | 45.7 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | allyl bromide | 35.6 mmol, 3.15 mL | C(C=C)Br | C3H5Br
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-allyloxy-4-nitropyridine | 5.85 g, 94% | C(C=C)OC1=NC=CC(=C1)[N+](=O)[O-] | C8H8N2O3
